US06875765B2
A mixture of 29.1 g (125.6 mmol) of 2-bromo-5-nitroanisole and 250 mL CH2Cl2 was stirred at −44° C. in a dry ice acetonitrile bath under a nitrogen atmosphere. Boron tribromide (18 mL) was added dropwise to the reaction mixture. The resulting black reaction was stirred while allowing the cooling bath to slowly rise to room temperature over 20 h. TLC analysis indicated complete reaction, so the reaction mixture was transferred to an addition funnel and added cautiously to a mixture of ice, water and 75 g solid KH2PO4. The layers were separated, the aqueous layer was washed with CH2Cl2, the combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, concentrated to give 27.4 g (125.6 mmol, 100%) of 2-bromo-5-nitrophenol as a black solid. 1H NMR (400 MHz) CDCl3 7.85 (s, 1H), 7.62-7.70 (m, 2H), 5.88 (s, 1H).

reactant | 2-bromo-5-nitroanisole | 125.6 mmol, 29.1 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
reactant | Boron tribromide | 18 mL | B(Br)(Br)Br | BBr3
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | water | O | H2O
product | 2-bromo-5-nitrophenol | 125.6 mmol, 27.4 g, 100% | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
